US09301951B2
Intermediate 79b: (4-(1H-pyrazol-1-yl)phenyl)methanamine
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed tetrahydrofuran (15 mL). This was followed by dropwise addition of a 4-(1H-pyrazol-1-yl)benzonitrile (250 mg, 1.48 mmol, 1.00 equiv) in tetrahydrofuran (5 mL) with stirring at 0° C. To this was added LiAlH4 (337 mg, 8.87 mmol, 6.00 equiv). The resulting solution was stirred for 3 h at room temperature. The reaction was then quenched by the addition of NaOH (15%, aq). The resulting solution was extracted with 3×50 mL of dichloromethane and the organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. The product was obtained as 0.251 mg of a white crude solid.

reactant | 4-(1H-pyrazol-1-yl)benzonitrile | 1.48 mmol, 250 mg, 1.00 equiv | N1(N=CC=C1)C1=CC=C(C#N)C=C1 | C10H7N3
reactant | LiAlH4 | 8.87 mmol, 337 mg, 6.00 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4-(1H-pyrazol-1-yl)phenyl)methanamine | 0.251 mg | N1(N=CC=C1)C1=CC=C(C=C1)CN | C10H11N3
